US07838547B2
1-(4-Nitrophenyl)octahydropyrrolo[3,2-b]pyrrole
Octahydropyrrolo[3,2-b]pyrrole (0.50 g) was reacted by method C with 4-fluoronitrobenzene (0.53 g). The product with the molecular weight of 233.27 (C12H15N3O2); MS (ESI): 234 (M+H+) was obtained in this way.

reactant | Octahydropyrrolo[3,2-b]pyrrole | 0.50 g | N1C2C(CC1)NCC2 | C6H12N2
reactant | 4-fluoronitrobenzene | 0.53 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | 1-(4-Nitrophenyl)octahydropyrrolo[3,2-b]pyrrole | [N+](=O)([O-])C1=CC=C(C=C1)N1C2C(CC1)NCC2 | C12H15N3O2
